US04973757
1st step: Preparation of 3-nitro-4-chlorophenoxyethanol.
2.5 mols (434 g) of 4-chloro-3-nitrophenol are dissolved in 1,300 ml of dimethylformamide heated to 70° C. beforehand. 3 mols of powdered potassium hydroxide (210 g of 80% pure potassium hydroxide) are added to this solution and 3 mols (534 g) of glycol bromohydrin are then introduced in the course of 30 minutes, with stirring, whilst keeping the temperature at 70° C. When the addition has ended, the reaction medium is kept at 70° C. for 1 hour. 1 mol of powdered potassium hydroxide (70 g of 80% pure potassium hydroxide) and 1 mol of glycol bromohydrin (178 g) are then added. After heating for 1 hour, a further 1 mol of potassium hydroxide and 1 mol of glycol bromohydrin are added. The heating is continued for a further 1 hour and the cooled reaction medium is then poured into 7.5 liters of iced water. The expected product precipitates. It is filtered off and washed carefully with a 3N solution of sodium hydroxide and then with water. After drying in vacuo, it melts at 96° C.

reactant | 4-chloro-3-nitrophenol | 2.5 mols, 434 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | potassium hydroxide | 3 mols, 210 g | [OH-].[K+]
reactant | glycol bromohydrin | 3 mols, 534 g | C(CBr)O | C2H5BrO
reactant | potassium hydroxide | 1 mol, 70 g | [OH-].[K+]
reactant | glycol bromohydrin | 1 mol, 178 g | C(CBr)O | C2H5BrO
reactant | potassium hydroxide | 1 mol | [OH-].[K+]
reactant | glycol bromohydrin | 1 mol | C(CBr)O | C2H5BrO
reactant | water | 7.5 liters | O | H2O
solvent | dimethylformamide | 1,300 ml | CN(C=O)C | C3H7NO
product | 3-nitro-4-chlorophenoxyethanol | [N+](=O)([O-])C=1C=C(OC(C)O)C=CC1Cl | C8H8ClNO4
